US07799933B2
1-(2-Methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid was converted to the title compound in analogy to example 8, steps 3 and 4. Step 3 was performed using 2-(4-amino-phenyl)-propionic acid methyl ester and 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid and yielded 2-(4-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-phenyl)-propionic acid methyl ester, which was hydrolyzed to 2-(4-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-phenyl)-propionic acid in step 4, MS (ISP): m/e=526.2 (M−H).

reactant | 2-(4-amino-phenyl)-propionic acid methyl ester | COC(C(C)C1=CC=C(C=C1)N)=O | C10H13NO2
reactant | 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid | COC1=C(C=C(C=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C18H19NO5S
product | 2-(4-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-phenyl)-propionic acid methyl ester | COC(C(C)C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)C)OC)=O | C28H30N2O6S
